US04568685
2-Amino-N-[3-(1H-1,2,4-triazol-1-yl)propyl]benzamide
A mixture of about 2.5 g of 1H-1,2,4-triazole-1-propanamine, about 3.26 g of isatoic anhydride and about 20 ml of ethanol was heated in an oil bath at about 70° C. for about 30 minutes and then concentrated. The residue was recrystallized from ethyl acetate and the desired product, mp 96°-98° C., was obtained.

reactant | 1H-1,2,4-triazole-1-propanamine | about 2.5 g | N1(N=CN=C1)CCCN | C5H10N4
reactant | isatoic anhydride | about 3.26 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | ethanol | about 20 ml | C(C)O | C2H6O
product | 2-Amino-N-[3-(1H-1,2,4-triazol-1-yl)propyl]benzamide | NC1=C(C(=O)NCCCN2N=CN=C2)C=CC=C1 | C12H15N5O
